* source PRACTICA 1-5
D_D1         N14673 N14735 Dbreak 
D_D2         N14673 $D_LO Dbreak 
D_D3         $D_LO N14706 Dbreak 
D_D4         N14735 N14706 Dbreak 
C_Cf         N14706 N14673 1mF
R_Rcarga         N14673 N14706  10 TC=0,0 
R_R2         N14673 0  10meg TC=0,0 
L_Lr         $D_HI N14735  1mH  
